US05116863
In this process, 1.90 g of 11-hydroxy-2-(4,4-dimethyl-2-oxazoline-2-yl)-6,11-dihydrodibenz[b,e]oxepin is dissolved in 30 ml of methylene chloride and 0.7 ml of thionyl chloride is added thereto under ice-cooling. After stirring the mixture at room temperature for one hour, the solvent is distilled away under reduced pressure to obtain a crude product of 11-chloro-2-(4,4-dimethyl-2-oxazoline-2-yl)-6,11-dihydrodibenz[b,e]oxepin. The crude product as such is dissolved in 10 ml of tetrahydrofuran without purification.

reactant | thionyl chloride | 0.7 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 11-hydroxy-2-(4,4-dimethyl-2-oxazoline-2-yl)-6,11-dihydrodibenz[b,e]oxepin | 1.90 g | OC1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)C=2OCC(N2)(C)C | C19H19NO3
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 11-chloro-2-(4,4-dimethyl-2-oxazoline-2-yl)-6,11-dihydrodibenz[b,e]oxepin | ClC1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)C=2OCC(N2)(C)C | C19H18ClNO2
